*Ngspice Common Source Circuit
.lib "../../Models/libs.tech/ngspice/sky130.lib.spice" tt

*****************
** main netlist
*****************
X1 d g 0 0 sky130_fd_pr__nfet_01v8 W=0.42 L=0.18
R1 d vdd 1000

V1 g 0 DC 1 AC 1 SIN(0 1 1k)
VDD vdd 0 1.8


*****************
** Analysic
*****************
.control
set appendwrite

shell  rm -rf ./ngspice_results/sky130_fd_pr__nfet_01v8_ac_W_0.42_L_0.18_tt_ngspice.csv

AC DEC 10 1 1000G
wrdata ./ngspice_results/sky130_fd_pr__nfet_01v8_ac_W_0.42_L_0.18_tt_ngspice.csv  vdb(d)

.endc
.end
